US06600076B1
A solution of 8-bromo-1-octanethiol (0.7 g, 3.1 mmol) in 20 mL ethanol was titrated with a 65 mM solution of iodine in ethanol (˜23 mL) until a light yellow color persisted (Bain, C. D. et al., Langmuir, 5:723-727. (1989). The ethanol was removed at 40° C. by rotary evaporation, The dark-maroon colored oil was dissolved in 40 mL ether and extracted with distilled water (4×50 mL). The ethereal layer was dried over anhydrous sodium sulfate and the solvent removed under vacuum at 30° C. Flash chromatography (80:20 hexanes:methylene chloride) afforded di(8-bromooctyl)disulfide, a yellowish oil, in 80% yield, 1H NMR (CDCl3) δ 3.41 (t, 4H), 2.68 (t, 4H), 1.86 (m, 4H), 1.67 4 m H), 1.20-1.50 (m, 16H).

reactant | 8-bromo-1-octanethiol | 3.1 mmol, 0.7 g | BrCCCCCCCCS | C8H17BrS
reactant | iodine | II | I2
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | ethanol | ˜23 mL | C(C)O | C2H6O
product | di(8-bromooctyl)disulfide | 80% yield | BrCCCCCCCCSSCCCCCCCCBr | C16H32Br2S2
